US06117875
A mixture of 2-[3-[(E)-2-[5-[(E)-2-(4-pyridyl)vinyl]pyridin-3-yl]vinyl]phenylamino]-3-nitropyridine (331 mg), iron powder (132 mg) and ammonium formate (297 mg) in ethanol (6 ml) and water (2 ml) was stirred at 90pbC. for 30 minutes. The mixture was filtered while hot. The filtrate was added to aqueous sodium bicarbonate solution and extracted with ethyl acetate twice. The combined organic solution was washed with sodium bicarbonate and brine, dried over magnesium sulfate and concentrated. The resultant solid was washed with diisopropyl ether to give 3-amino-2-[3-[(E)-2-[5-[(E)-2-(4-pyridyl)vinyl]pyridin-3-yl]vinyl]phenylamino]pyridine (270 mg).

reactant | 2-[3-[(E)-2-[5-[(E)-2-(4-pyridyl)vinyl]pyridin-3-yl]vinyl]phenylamino]-3-nitropyridine | 331 mg | N1=CC=C(C=C1)/C=C/C=1C=C(C=NC1)/C=C/C=1C=C(C=CC1)NC1=NC=CC=C1[N+](=O)[O-] | C25H19N5O2
reactant | ammonium formate | 297 mg | C(=O)[O-].[NH4+]
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
catalyst | iron | 132 mg | [Fe] | Fe
product | 3-amino-2-[3-[(E)-2-[5-[(E)-2-(4-pyridyl)vinyl]pyridin-3-yl]vinyl]phenylamino]pyridine | 270 mg | NC=1C(=NC=CC1)NC1=CC(=CC=C1)\C=C\C=1C=NC=C(C1)\C=C\C1=CC=NC=C1 | C25H21N5
